US08022205B2
7-(1H-indazol-5-yl)-4-(3-methoxy-phenyl)-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine (A-05)
In the same manner as Example 1-A-01, from 4-[4-chloro-5-(2-chloroethyl)-6-(3-methoxyphenyl)-pyrimidin-2-yl]-morpholine and 1H-indazol-5-ylamine, the desired compound was obtained.

reactant | 4-[4-chloro-5-(2-chloroethyl)-6-(3-methoxyphenyl)-pyrimidin-2-yl]-morpholine | ClC1=NC(=NC(=C1CCCl)C1=CC(=CC=C1)OC)N1CCOCC1 | C17H19Cl2N3O2
reactant | 1H-indazol-5-ylamine | N1N=CC2=CC(=CC=C12)N | C7H7N3
product | 7-(1H-indazol-5-yl)-4-(3-methoxy-phenyl)-2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidine | N1N=CC2=CC(=CC=C12)N1CCC2=C1N=C(N=C2C2=CC(=CC=C2)OC)N2CCOCC2 | C24H24N6O2
